US07495001B2
A] [rac]-[4-(Methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-propyl}-amino)-naphthalen-1-yloxy]-acetic acid ethyl ester
To 0.164 g (0.523 mmol) of [rac]-3-(1-chloro-propyl)-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine (see below 2C]) and 0.149 g (0.575 mmol) of the above prepared (4-methylamino-naphthalen-1-yloxy)-acetic acid ethyl ester, dissolved in 3.2 ml of abs. DMSO, were added successively 0.0867 g of K2CO3 (0.627 mmol) and 0.0856 g (0.575 mmol) of NaI. The reaction was allowed to proceed for 15 h at 60° C. Pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=9/1), yielded 0.043 g of the title compound as light yellow oil.

reactant | [rac]-3-(1-chloro-propyl)-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine | 0.523 mmol, 0.164 g | ClC(CC)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C | C16H15ClF3N
reactant | (4-methylamino-naphthalen-1-yloxy)-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C2=CC=CC=C12)NC)=O | C15H17NO3
reactant | K2CO3 | 0.627 mmol, 0.0867 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.575 mmol, 0.0856 g | [Na+].[I-]
solvent | DMSO | CS(=O)C | C2H6OS
product | [rac]-[4-(Methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-propyl}-amino)-naphthalen-1-yloxy]-acetic acid ethyl ester | 0.043 g | C(C)OC(COC1=CC=C(C2=CC=CC=C12)N(C(CC)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C)C)=O | C31H31F3N2O3
